US07691892B2
a) 5-(3,5-difluorophenyl)-4-methyl-2,4-dihydro-3H-1,2,4-triazole-3-thione
3,5-difluorobenzohydrazide (5 g, 29 mol) and methyl isothiocyanate (2.1 g, 29 mmol) were mixed in 2-propanol (100 ml) and heated to 70° C. o.n. The reaction was cooled to r.t. and the formed precipitate was filtered off. H2O (100 mL) and NaHCO3 (4 g, 48 mmol) were added to the solid and the mixture was heated to 70° C. for 2 h. The reaction mixture was cooled to r.t., acidified with concentrated HCl and the title compound, 6.4 g (97%), was collected by filtration. LC-MS (M++1): 228

reactant | 3,5-difluorobenzohydrazide | 29 mol, 5 g | FC=1C=C(C(=O)NN)C=C(C1)F | C7H6F2N2O
reactant | methyl isothiocyanate | 29 mmol, 2.1 g | CN=C=S | C2H3NS
reactant | NaHCO3 | 48 mmol, 4 g | C(=O)(O)[O-].[Na+]
reactant | HCl | Cl | ClH
solvent | 2-propanol | 100 ml | CC(C)O | C3H8O
solvent | H2O | 100 mL | O | H2O
product | 5-(3,5-difluorophenyl)-4-methyl-2,4-dihydro-3H-1,2,4-triazole-3-thione | FC=1C=C(C=C(C1)F)C=1N(C(NN1)=S)C | C9H7F2N3S
